US08044052B2
Synthesis of 4-(fluoro(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylene)-N-(pyridin-3-yl)piperidine-1-carboxamide
To a solution of 2-(3-(fluoro(piperidin-4-ylidene)methyl)phenoxy)-5-(trifluoromethyl)pyridine (110 mg, 0.312 mmol) and phenyl pyridin-3-ylcarbamate (66.8 mg, 0.312 mmol) in DMSO (2 mL) under N2 was added 3 drops of triethyl amine and the reaction mixture was stirred for 12 h. The reaction mixture was diluted with water and extracted with EtOAc. The organic layer was washed several times with water to remove the excess DMSO. The title compound was crystallized from CH2Cl2 and hexane to give the pure title compound (110 mg). 1H NMR (500 MHz, CDCl3): δ 2.5 (brs, 2H), 2.6 (brs, 2H), 3.7 (brs, 2H), 3.8 (brs, 2H), 7.0 (d, 1H, J=8.5 Hz), 7.1-7.3 (m, 3H), 7.4 (t, 1H, J=8.5), 7.7 (d, 1H, J=5.5 Hz), 7.9 (d, 1H, J=8 Hz), 8.0 (s, 1H), 8.4 (s, 1H), 9.2 (d, 1H, J=8.5 Hz), 9.6 (brs, 1H), 9.8 (brs, 1H); 13CNMR (125 MHz, CDCl3): 11.4, 14.3, 22.6, 25.5, 27.7, 31.5, 40.8, 44.1, 44.4, 53.4, 111.6, 114.0, 115.5, 119.8, 121.3, 121.4, 121.7, 122.5, 123.8, 125.3, 128.2, 129.6, 133.5, 133.8, 136.8, 140.5, 142.8, 145.3, 151.8, 153.0, 154.7, 156.7, 165.4; m/z (473.3 M+ H+); HPLC: 94.2%.

reactant | 2-(3-(fluoro(piperidin-4-ylidene)methyl)phenoxy)-5-(trifluoromethyl)pyridine | 0.312 mmol, 110 mg | FC(C=1C=C(OC2=NC=C(C=C2)C(F)(F)F)C=CC1)=C1CCNCC1 | C18H16F4N2O
reactant | phenyl pyridin-3-ylcarbamate | 0.312 mmol, 66.8 mg | N1=CC(=CC=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
catalyst | triethyl amine | 3 drops | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 4-(fluoro(3-(5-(trifluoromethyl)pyridin-2-yloxy)phenyl)methylene)-N-(pyridin-3-yl)piperidine-1-carboxamide | 110 mg | FC(=C1CCN(CC1)C(=O)NC=1C=NC=CC1)C1=CC(=CC=C1)OC1=NC=C(C=C1)C(F)(F)F | C24H20F4N4O2
